Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Increasing LLE rest pain
 
Major Surgical or Invasive Procedure:
1)Angiogram of the LLE and aorta. ___ 
2)Left below the knee amputation. ___
 
History of Present Illness:
Mr. ___ is a ___ diabetic smoker with CAD s/p CABGx5, afib 
on Apixaban, CHF (EF 15%), PVD s/p R BKA and left SFA_peroneal 
bypass with cryovein ___ ___ presenting with 
worsening rest pain and continued nonhealing left foot toe 
amputation stumps. He underwent a bypass duplex on ___ at 
___ and found
to have an occluded fem-peroneal bypass graft. He therefore 
presents now for a left lower extremity angiogram to evaluate 
for potential revascularization options. Denies fever, chills, 
nausea, voimiting. 
 
Past Medical History:
PMHx: NSTEMI/CAD (s/p 5vCABG ___, afib, ischemic 
cardiomyopathy (EF 15% ___ Cardiologist), PAD, 
DM2, chronic pain syndrome, nocturia, peripheral neuropathy, 
lumbago, CKD on HD (___), cardioembolic stroke (L 
hemiplegia, ___ Neurology), L atrial appendage clot on 
coumadin depression, ventricular tachycardia, rhabdomyolysis

PSHx: L fem-peroneal bypass ___: LLE angiogram, L 
BK ___ bypass w/ NRSVG (Cambpell), R BKA ___, 
___, R pop-DP bypass, ___ toe amputation ___ 
(___, Vascular surgeon Dr ___ 
___, RLE hematoma evacuation ___ (___), 
bypass graft explantation, tonsillectomy, Debridement ankle 
infection ___ Revision right ankle ligament reconstruction with 
Achilles tendon allograft ___, 5V CABG ___ 
___. 
 
Social History:
___
Family History:
CAD, DM, stroke 
 
Physical Exam:
Physical Exam:
Vitals: Temp 97.9, BP 126/69, HR 67, RR 16, O2 100% RA
GEN: AOx3, NAD
HEENT: No scleral icterus, mucus membranes moist
Chest: right-sided central line non-erythematous, non-tender 
CV: irregularly irregular rhythm, normal rate, S1 and S2 
appreciated
PULM: no respiratory distress
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: right BKA stump well healed, left BKA incision with staples 
and nonerythematous and appropriately tender.
Pulses: R: p/d/BKA  L: p/d
 
Pertinent Results:
CXR (___) IMPRESSION:    
Left-sided pacemaker and a right-sided central lines unchanged.  

Cardiomediastinal silhouette is stable.  There is no pleural 
effusion.  No 
pneumothorax is seen. 

___ 07:08AM BLOOD WBC-5.4 RBC-2.97* Hgb-8.8* Hct-27.5* 
MCV-93 MCH-29.6 MCHC-32.0 RDW-15.9* RDWSD-52.8* Plt Ct-98*
___ 07:08AM BLOOD ___ PTT-28.9 ___
___ 07:08AM BLOOD Glucose-141* UreaN-24* Creat-3.2*# Na-140 
K-3.8 Cl-97 HCO3-26 AnGap-17
___ 07:08AM BLOOD Calcium-8.1* Phos-4.3 Mg-2.0

___ 04:20 
HEPARIN DEPENDENT ANTIBODIES 
  TEST                        RESULTS           REFERENCE RANGE  
      UNITS
____________________        _______           _______________    
    _____
PF4 Heparin Antibody          0.19               0.00 - 0.39     
    OD
 
 
 
For additional information on interpreting these results please 
see
the ___ Heparin Induced Thrombocytopenia Guidelines
(___).
 
Method is Lifecodes PF4 Enhanced Assay [IgG/A/M].
 

Test performed at:
___
 
___ 04:15 
ZINC (SPIN NVY/EDTA) 
  Test                          Result              Reference 
Range/Units
ZINC                          58  L               60-130 mcg/dL
 
 
This test was developed and its analytical performance
characteristics have been determined by ___, ___. It has
not been cleared or approved by the ___. This assay has been validated pursuant
to the ___ regulations and is used for clinical
purposes.
 
THIS TEST WAS PERFORMED AT:
___, ___ 
___
 
   
 
Brief Hospital Course:
Mr. ___ is a ___ year old man who was admitted to the ___ 
___ on ___ to the vascular 
surgery service for worsening rest pain and continued 
non-healing left foot toe amputation stump. He underwent a 
bypass duplex on ___ at ___ and found to have an occluded 
fem-peroneal bypass graft. 

He underwent LLE angiogram to evaluate for potential 
revascularization options on ___ 
revascularization was unable to be accomplished and, it was then 
recommended that he receive a LLE BKA.  Of note, on ___ 
it was found that he had a previous history of Heparin induced 
thrombocytopenia, but A HIT panel was negative and was restarted 
on ___ for anticoagulation. During his stay he regularly 
received HD for his CKD. On ___ patient agreed to LLE BKA 
and was consented on the procedure. Patient then underwent L BKA 
on ___ that was uncomplicated. For details of the 
procedure, please see the surgeon's operative note. The patient 
tolerated the procedure well and was brought to the 
post-anesthesia care unit in stable condition. The patient was 
transferred to the vascular surgery floor where he remained 
through the rest of the hospitalization. He was noted to have a 
prolonged QTc which remained stable throughout his 
hospitalization. He was started on his home Oxycontin on POD2, 
which helped control his pain and his oxycodone dose and 
frequency was able to be decreased. On ___, he had some nausea 
and vomiting with subsequent EKG and labs demonstrating no 
changes. He had troponin to 0.24 and MB to 3 and on ___ in the 
morning his troponin downtrended to 0.18 with stable MB at 3. 

On day of discharge, his pain was well controlled, his vital 
signs were normal and stable, and he was cleared by Physical 
Therapy to go to rehabilitation to work on his strength and 
conditioning. He was deemed ready for discharge, and was given 
the appropriate discharge and follow-up instructions. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 2.5 mg PO ONE TABLET BID. 
2. BuPROPion (Sustained Release) 150 mg PO ONE TABLET DAILY. 
3. Atorvastatin 80 mg PO ONE TABLET DAILY. 
4. ARIPiprazole 5 mg PO ONE TABLET DAILY. 
5. Furosemide 80 mg PO ___ 
6. Gabapentin 300 mg PO ONE CAPSULE BID. 
7. glimepiride 1 mg oral One tablet daily. 
8. linaGLIPtin 5 mg oral One tablet daily. 
9. oxyCODONE 20 mg oral ___ Tablets up to four times daily as 
needed  for pain.  
10. Sertraline 150 mg PO ONCE 
11. HydrOXYzine 25 mg PO ONE TABLET TID 
12. Metoprolol Tartrate 25 mg PO BID 
13. Aspirin 81 mg PO DELAYED REALEASE (___) ONE TABLET DAILY.  


 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*20 Tablet Refills:*0 
4.  Sarna Lotion 1 Appl TP QID:PRN dry skin, pruritis  
5.  Senna 8.6 mg PO BID:PRN constipation  
6.  Metoprolol Tartrate 12.5 mg PO BID  
7.  Apixaban 2.5 mg PO ONE TABLET BID.  
8.  ARIPiprazole 5 mg PO ONE TABLET DAILY.  
9.  Aspirin 81 mg PO DELAYED REALEASE (___) ONE TABLET DAILY.  
 
10.  Atorvastatin 80 mg PO ONE TABLET DAILY.  
11.  BuPROPion (Sustained Release) 150 mg PO ONE TABLET DAILY.  
12.  Furosemide 80 mg PO ___  
13.  Gabapentin 300 mg PO ONE CAPSULE BID.  
14.  glimepiride 1 mg oral One tablet daily.  
15.  HydrOXYzine 25 mg PO ONE TABLET TID  
16.  linaGLIPtin 5 mg oral One tablet daily.  
17.  OxyCODONE SR (OxyconTIN) 20 mg PO DAILY  
18.  Sertraline 150 mg PO ONCE Duration: 1 Dose  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Gangrenous non-healing wound of the Left Lower Extremity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

AMPUTATION DISCHARGE INSTRUCTIONS 

ACTIVITY: 
• On the side of your amputation you are non weight bearing for 
___ weeks. 
• You should keep this amputation site elevated when ever 
possible. 
• You may use the opposite foot for transfers and pivots. 
• No driving until cleared by your Surgeon. 
• No heavy lifting greater than 20 pounds for the next 3 weeks. 

BATHING/SHOWERING: 
• You may shower when you get home 
• No tub baths or pools / do not soak your foot for 4 weeks from 
your date of surgery 

WOUND CARE: 
• Sutures / Staples may have been removed before discharge. If 
they are not, an appointment will be made for you to return for 
staple removal. 
• When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 
stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower. 

CAUTIONS: 
• If you smoke, please make every attempt to quit. Your primary 
care physician can help with this. Smoking causes narrowing of 
your blood vessels which in turn decreases circulation. 
DIET: 
• Low fat, low cholesterol / if you are diabetic – follow your 
dietary restrictions as before 
CALL THE OFFICE FOR: ___ 
• Bleeding, redness of, or drainage from your foot wound 
• New pain, numbness or discoloration of the skin on the 
effected foot 
• Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site. 

 
Followup Instructions:
___